US07425568B2
2-(4-Chlorophenyl)chroman-4,6-diol was prepared as described for 2-phenylchroman-4,6-diol in Example 8(a) starting from 375 mg of 2-(4-chlorophenyl)-6-hydroxychroman-4-one. 1H NMR (400 MHz, d6-DMSO) δ: 8.84 (s, 1H), 7.49-7.44 (m, 4H), 6.88 (d, 1H, J 2.8 Hz), 6.60 (d, 1H, J 8.6 Hz), 6.55 (dd, 1H, J 8.6, 2.8 Hz), 5.43 (bs, 1H), 5.14 (dd, 1H, J 11.9, 1.6 Hz), 4.87 (m, 1H), 2.26 (m, 1H), 1.85 (m, 1H).

reactant | 2-phenylchroman-4,6-diol | C1(=CC=CC=C1)C1OC2=CC=C(C=C2C(C1)O)O | C15H14O3
reactant | 2-(4-chlorophenyl)-6-hydroxychroman-4-one | 375 mg | ClC1=CC=C(C=C1)C1OC2=CC=C(C=C2C(C1)=O)O | C15H11ClO3
product | 2-(4-Chlorophenyl)chroman-4,6-diol | ClC1=CC=C(C=C1)C1OC2=CC=C(C=C2C(C1)O)O | C15H13ClO3
